US07906546B2
To 0.14 g (0.43 mmol) (RS,SR)-2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester in glacial acetic acid (3 mL), 88 mg (0.47 mmol, 1.1 eq) of (4-chloro-phenyl)-hydrazine hydrochloride were added and the reaction mixture was stirred at 40° C. over night. An aqueous solution of NaHCO3 was added until pH=7 was reached, and the mixture was extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. A column chromatography on silica gel with heptane/EtOAc 2:1 followed by a trituration with Et2O yielded 187 mg (65%) of (RS,SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propionic acid methyl ester as a white solid, MS: 432 (MH+).

reactant | (RS,SR)-2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionic acid methyl ester | 0.43 mmol, 0.14 g | COC(C(C)(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C16H20O5S
reactant | (4-chloro-phenyl)-hydrazine hydrochloride | 0.47 mmol, 88 mg, 1.1 eq | Cl.ClC1=CC=C(C=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | (RS,SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propionic acid methyl ester | 187 mg, 65% | COC(C(C)(C1CC=2NC3=CC=C(C=C3C2CC1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C22H22ClNO4S
